US07812167B2
To a solution of the title A compound, 5-methoxy-thiazolo[5,4-b]pyridin-2-ylamine (1.22 mmol, 222 mg) in 3 mL of pyridine at 0° C. is added 3-cyclopentyl-2-(4-methansulfonyl-phenyl)-propionyl chloride (1.02 mmol, prepared as described for the preparation of the title C compound in Example 1). The reaction is allowed to warm to RT over 12 h, then evaporated and the residue is partitioned between MTBE and aqueous 0.1 N HCl. The organic solution is washed with water, saturated aqueous NaHCO3 and brine, dried and evaporated to an oil. Chromatography over silica affords 3-cyclopentyl-2-(4-methanesulfonyl-phenyl)-N-(5-methoxy-thiazolo[5,4-b]pyridin-2-yl)-propionamide; 1H NMR δ 9.7 (s, 1H), 7.85 (m, 3H), 7.38 (d, J=8, 2H), 6.83 (d, J=8, 1H), 4.05 (s, 3H), 3.63 (t, J=7.5, 1H); 3.09 (s, 3H), 2.2 (m, 1H), 1.1-1.9 (m, 10H); e/z (ES) 460 (M+1, 100%).

reactant | 5-methoxy-thiazolo[5,4-b]pyridin-2-ylamine | 1.22 mmol, 222 mg | COC1=CC=C2C(=N1)SC(=N2)N | C7H7N3OS
reactant | 3-cyclopentyl-2-(4-methansulfonyl-phenyl)-propionyl chloride | C1(CCCC1)CC(C(=O)Cl)C1=CC=C(C=C1)S(=O)(=O)C | C15H19ClO3S
solvent | pyridine | 3 mL | N1=CC=CC=C1 | C5H5N
product | 3-cyclopentyl-2-(4-methanesulfonyl-phenyl)-N-(5-methoxy-thiazolo[5,4-b]pyridin-2-yl)-propionamide | C1(CCCC1)CC(C(=O)NC=1SC2=NC(=CC=C2N1)OC)C1=CC=C(C=C1)S(=O)(=O)C | C22H25N3O4S2
